US09085555B2
A. (1R,3S,5S)-5-(Tetrahydro-pyran-2-yloxymethyl)-2-aza-bicyclo[3.1.0]hexane-2,3-dicarboxylic acid 2-tert-butyl ester 3-ethyl ester
A mixture of (1R,3S,5S)-5-hydroxymethyl-2-aza-bicyclo[3.1.0]hexane-2,3-dicarboxylicacid 2-tert-butyl ester 3-ethyl ester (500 mg, 1.75 mmol), 3,4-dihydro-2H-pyran (176 μL, 1.93 mmol) and TsOH.H2O (33 mg, 0.17 mmol) in CH2Cl2 (6 mL) was stirred 3 h at RT. Then poured into a saturated aqueous solution of NaHCO3 and extracted with CH2Cl2 (×2). The combined organic extracts were dried (Na2SO4), filtered and concentrated. The crude residue was purified by flash column chromatography on silica gel (c-hexane to c-hexane/EtOAc 1:1). Colorless oil. TLC, Rf (EtOAc)=0.85; MS (UPLC/MS): 370.4 [M+H]+, 387.4 [M+H2O]+; tR (HPLC conditions f): 2.28 min.

reactant | (1R,3S,5S)-5-hydroxymethyl-2-aza-bicyclo[3.1.0]hexane-2,3-dicarboxylicacid 2-tert-butyl ester 3-ethyl ester | 1.75 mmol, 500 mg | C(C)OC(=O)[C@H]1N([C@@H]2C[C@@]2(C1)CO)C(=O)OC(C)(C)C | C14H23NO5
reactant | 3,4-dihydro-2H-pyran | 1.93 mmol, 176 μL | O1CCCC=C1 | C5H8O
reactant | TsOH.H2O | 0.17 mmol, 33 mg | CC=1C=CC(=CC1)S(=O)(=O)O.O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 6 mL | C(Cl)Cl | CH2Cl2
product | (1R,3S,5S)-5-(Tetrahydro-pyran-2-yloxymethyl)-2-aza-bicyclo[3.1.0]hexane-2,3-dicarboxylic acid 2-tert-butyl ester 3-ethyl ester | C(C)OC(=O)[C@H]1N([C@@H]2C[C@@]2(C1)COC1OCCCC1)C(=O)OC(C)(C)C | C19H31NO6
